US04146721
15 grams 1,3,5-triphenyl-pyrazol-4-acetic acid, 50 milliliters methanol, 40 milliliters carbon tetrachloride and 0.64 gram concentrated sulfuric acid were mixed and the mixture heated to the boiling temperature under reflux for 11 hours. The cooled reaction mixture was then extracted, first with sodium carbonate solution and thereafter with water. The organic phase was then dried and evaporated. The residue was recrystallized from a mixture of methanol and water. 14.2 grams 1,3,5-triphenyl-pyrazol-4-acetic acid-methyl ester, melting at 80.5°-81.5° C., were obtained, representing a yield of 91%.

reactant | 1,3,5-triphenyl-pyrazol-4-acetic acid | 15 grams | C1(=CC=CC=C1)N1N=C(C(=C1C1=CC=CC=C1)CC(=O)O)C1=CC=CC=C1 | C23H18N2O2
reactant | methanol | 50 milliliters | CO | CH4O
reactant | sulfuric acid | 0.64 gram | S(O)(O)(=O)=O | H2O4S
solvent | carbon tetrachloride | 40 milliliters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,3,5-triphenyl-pyrazol-4-acetic acid-methyl ester | 14.2 grams, yield of 91% | COC(CC=1C(=NN(C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H20N2O2
